US08377895B2
Preparation of 5,7-dihydroxy-8-methoxy-2-phenyl-6-(piperidin-1-ylmethyl)-4H-chromen-4-one [Piperidine Wogonin]
The mixture of Wogonin (28.4 g), methanol (350 ml), 37% formaldehyde solution (8.1 ml), piperidine (8.5 g) was stirred under for 4.5 hours at 55° C., then precipitates were removed by filtration and washed several times with methanol, after drying under reduced pressure at 65° C. to get the product as yellow solid 35.3 g of purity 99.2%. MS: (API-ES) m/z 382.5[M+H]+, 404.5[M+Na]+; 1H NMR (DMSO-d6, 400 MHz) δ 8.05˜8.06 (m, 2H, Ar-2′,6′-H), 7.60˜7.61 (m, 3H, Ar-3′,4′,5′-H), 6.89 (s, 1H, 3-H), 3.95 (s, 2H, CH2), 3.83 (s, 3H, 8-OCH3), 2.79 (s, 4H, CH2), 1.64 (m, 4H, CH2), 1.50 (m, 2H, CH2).

reactant | Wogonin | 28.4 g | COC=1C(=CC(=C2C1OC(=CC2=O)C=3C=CC=CC3)O)O | C16H12O5
reactant | formaldehyde | 8.1 ml | C=O | CH2O
reactant | piperidine | 8.5 g | N1CCCCC1 | C5H11N
solvent | methanol | 350 ml | CO | CH4O
product | 5,7-dihydroxy-8-methoxy-2-phenyl-6-(piperidin-1-ylmethyl)-4H-chromen-4-one | 35.3 g | OC1=C2C(C=C(OC2=C(C(=C1CN1CCCCC1)O)OC)C1=CC=CC=C1)=O | C22H23NO5
